US05045567
from N-[(R or S)-3-hydroxy-2-phenylpropyl]-p-(2-ethoxyethoxy)phenylacetamide there was prepared (R or S)-β-[[[p-(2-ethoxyethoxy)phenethyl]amino]methyl]-phenethyl alcohol oxalate m.p. 152°-154° C., [α]D -9° (DMSO, c=1%)

reactant | β-[[[p-(2-ethoxyethoxy)phenethyl]amino]methyl]-phenethyl alcohol oxalate | C(C(=O)O)(=O)O.C(C)OCCOC1=CC=C(CCNCC(CO)C2=CC=CC=C2)C=C1
solvent | DMSO | CS(=O)C | C2H6OS
product | p-(2-ethoxyethoxy)phenylacetamide | C(C)OCCOC1=CC=C(C=C1)CC(=O)N | C12H17NO3
